### PR TITLE
[Merged by Bors] - feat: products of affine maps

### PR DESCRIPTION
**Pull request by gasparattila**
This PR defines some maps and isomorphisms between products of affine spaces.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/ContinuousAffineMap.lean [hunk 1]
```diff
@@ -238,6 +238,42 @@ instance [Semiring S] [Module S W] [SMulCommClass R S W] [ContinuousConstSMul S
...
+def prod (f : P₁ →ᴬ[k] P₂) (g : P₁ →ᴬ[k] P₃) : P₁ →ᴬ[k] P₂ × P₃ where
+  __ := AffineMap.prod f g
+  cont := by eta_expand; dsimp; fun_prop
+
+theorem coe_prod (f : P₁ →ᴬ[k] P₂) (g : P₁ →ᴬ[k] P₃) : prod f g = Pi.prod f g :=
+  rfl
+
+@[simp]
+theorem prod_apply (f : P₁ →ᴬ[k] P₂) (g : P₁ →ᴬ[k] P₃) (p : P₁) : prod f g p = (f p, g p) :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/ContinuousAffineMap.lean:260]: Could you add the `linear` lemma too, in terms of `ContinuousLinearMap.prod`?

**Review by eric-wieser — APPROVED** [review]
This looks great, thanks!

**Comment by gasparattila** [comment]
-awaiting-author

**Comment by jsm28** [comment]
maintainer merge

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
